US08669208B2
6-Amino-2,2,7-trifluoro-4-(prop-2-ynyl)-2Hbenzo[b][1,4]oxazin-3(4H)-one
To ammonium chloride (3.96 g, 74.0 mmol) in water was added iron powder (325 mesh; 4.13 g, 74.0 mmol). To the resulting mixture was added 2,2,7-trifluoro-6-nitro-4-(prop-2-ynyl)-2Hbenzo[b][1,4]oxazin-3(4H)-one (7.06 g, 24.67 mmol) in methanol/tetrahydrofuran. The resulting mixture was stirred vigorously at 70° C. for 2 hours. The reaction was quenched in water/ethyl acetate under stirring. The resulting 2 phase system was filtered and the layers were separated. The water layer was subsequently extracted with ethyl acetate. The combined organic phases were washed with brine, dried with Na2SO4 and concentrated to yield 5.15 g of the title compound.

reactant | ammonium chloride | 74.0 mmol, 3.96 g | [Cl-].[NH4+]
reactant | 2,2,7-trifluoro-6-nitro-4-(prop-2-ynyl)-2Hbenzo[b][1,4]oxazin-3(4H)-one | 24.67 mmol, 7.06 g | FC1(C(N(C2=C(O1)C=C(C(=C2)[N+](=O)[O-])F)CC#C)=O)F | C11H5F3N2O4
solvent | water | O | H2O
solvent | methanol tetrahydrofuran | CO.O1CCCC1
catalyst | iron | 74.0 mmol, 4.13 g | [Fe] | Fe
product | 6-Amino-2,2,7-trifluoro-4-(prop-2-ynyl)-2Hbenzo[b][1,4]oxazin-3(4H)-one | 5.15 g | NC1=CC2=C(OC(C(N2CC#C)=O)(F)F)C=C1F | C11H7F3N2O2
